US06518423B1
N-(10-Methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl)formamide
250 mg of 8-aminomethyl-10-methoxymethyl-10H-pyrazino-[2,3-b][1,4]benzothiazine was heated under reflux in 10 ml of ethyl formate for 3 hours. Then the reaction mixture was brought back to room temperature and distributed into an aqueous solution of ammonium chloride and ethyl acetate. The organic layer was extracted, washed with water and then dried over anhydrous sodium sulfate. After distilling off the solvent under reduced pressure, the crystals thus precipitated were filtered after adding diisopropyl ether. Thus 230 mg of the title compound was obtained as yellow crystals.

reactant | 8-aminomethyl-10-methoxymethyl-10H-pyrazino-[2,3-b][1,4]benzothiazine | 250 mg | NCC=1C=CC2=C(N(C3=C(S2)N=CC=N3)COC)C1 | C13H14N4OS
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl formate | 10 ml | C(=O)OCC | C3H6O2
product | N-(10-Methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl)formamide | 230 mg | COCN1C2=C(SC3=C1C=C(C=C3)CNC=O)N=CC=N2 | C14H14N4O2S
